US05753654
Ethyl 3-cyclohexylamino-3-methylthio-2-cyanoacrylate
To a solution of ethyl cyanoacetate (2.07 g, 18.3 mmol) in DMF (40 ml) was added under ice-cooling sodium hydride (0.77 g, 19.2 mmol). After stirring for one hour, cyclohexyl isothiocyanate (2.59 g, 18.3 mmol) was added dropwise. After stirring under ice-cooling for 1.5 hours, methyl iodide (2.60 g, 18.3 mmol) was added dropwise. After stirring at room temperature for 15 hours, water (400 ml) was added to the reaction mixture, which was then extracted with ethyl acetate (100 ml×2). The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound as a yellow oily substance (4.76 g) from the fraction from hexane-ethyl acetate (4/1). Yield=97%.

reactant | ethyl cyanoacetate | 18.3 mmol, 2.07 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium hydride | 19.2 mmol, 0.77 g | [H-].[Na+]
reactant | cyclohexyl isothiocyanate | 18.3 mmol, 2.59 g | C1(CCCCC1)N=C=S | C7H11NS
reactant | methyl iodide | 18.3 mmol, 2.60 g | CI | CH3I
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 400 ml | O | H2O
product | Ethyl 3-cyclohexylamino-3-methylthio-2-cyanoacrylate | Yield=97% | C1(CCCCC1)NC(=C(C(=O)OCC)C#N)SC | C13H20N2O2S
